US05354667
1 g of the cellular paste so obtained was suspended in 50 ml. of phosphate buffer 0,1M, pH 8,0, containing 2% glutaryl-7ACA, and incubated for 10 min. at 37° C. After such period of time, the reaction was stopped by the addition of 20% acetic acid, at the rate of 3 ml for 1 ml of the reaction mixture. The suspension obtained was centrifuged and the 7-ACA formed was quantified in the clear supernatant.

reactant | phosphate | 0,1M, pH 8,0 | P(=O)([O-])([O-])[O-]
reactant | glutaryl-7ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCCC(=O)O)SC1)C(=O)O | C15H18N2O8S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
